US04973425
The obtained ethyl 4-n-octyloxyphenylacetate (79 g), ethanol (140 ml), diethyl carbonate (300 ml) and sodium ethoxide (19.3 g) are mixed, and the mixture is heated with stirring while ethanol is distilling off. The reaction mixture is transferred into ice water and is acidified with hydrochloric acid. The organic layer is separated and the solvent is distilled off to give diethyl 4-n-octyloxyphenylmalonate (91.6 g).

reactant | ethyl 4-n-octyloxyphenylacetate | 79 g | C(CCCCCCC)OC1=CC=C(C=C1)CC(=O)OCC | C18H28O3
reactant | diethyl carbonate | 300 ml | C(OCC)(OCC)=O | C5H10O3
reactant | sodium ethoxide | 19.3 g | [O-]CC.[Na+]
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 140 ml | C(C)O | C2H6O
product | diethyl 4-n-octyloxyphenylmalonate | 91.6 g | C(CCCCCCC)OC1=CC=C(C=C1)C(C(=O)OCC)C(=O)OCC | C21H32O5
